US05780642
A solution of benzoyl chloride (0.36 g) in dichloromethane (1.5 ml) was added dropwise to a mixture of 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol (0.5 g) and triethylamine (0.5 g) in dichloromethane (5 ml) with stirring under nitrogen at 0° C. The mixture was stirred at 0° C. for 1 hour and then allowed to warm up to ambient temperature and stirred at this temperature for 3 hours. Saturated aqueous sodium bicarbonate (5 ml) was added. The mixture was shaken and the organic layer separated. The aqueous layer was extracted with further dichloromethane. The combined organic extracts were dried, filtered and evaporated to give an oil which was dissolved in ether and treated with ethereal hydrogen chloride to give 2-[3-(imidazol-1-yl)propylamino]-2,2-dimethylethyl benzoate dihydrochloride, m.p. 198°-199° C., after recrystallisation from ethanol.

reactant | benzoyl chloride | 0.36 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol | 0.5 g | N1(C=NC=C1)CCCNC(CO)(C)C | C10H19N3O
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
product | 2-[3-(imidazol-1-yl)propylamino]-2,2-dimethylethyl benzoate dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)OCC(C)(C)NCCCN1C=NC=C1 | InChI=1S/C17H23N3O2.2ClH/c1-17(2,19-9-6-11-20-12-10-18-14-20)13-22-16(21)15-7-4-3-5-8-15;;/h3-5,7-8,10,12,14,19H,6,9,11,13H2,1-2H3;2*1H
